### PR TITLE
[Merged by Bors] - feat(Analysis/Analytic): analyticity on empty set

### PR DESCRIPTION
**Pull request by vasnesterov**
Prove `analyticOn_empty` and `analyticOnNhd_empty`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by grunweg — COMMENTED** [review]
You could even format each lemma on one line, I think: up to you.
maintainer merge

File: Mathlib/Analysis/Analytic/Basic.lean [hunk 1]
```diff
@@ -723,6 +723,16 @@ theorem HasFPowerSeriesAt.coeff_zero (hf : HasFPowerSeriesAt f pf x) (v : Fin 0
...
 
+@[simp]
+theorem AnalyticOn_empty : AnalyticOn 𝕜 f ∅ := by
+  intro
+  simp
+
+@[simp]
+theorem AnalyticOnNhd_empty : AnalyticOnNhd 𝕜 f ∅ := by
+  intro
+  simp
```
Comment (ocfnash) [inline Mathlib/Analysis/Analytic/Basic.lean:734]: By Rule 5 our [naming convention](https://leanprover-community.github.io/contribute/naming.html#general-conventions) we should lowerCamelCase the lemma names (as in adjacent lemmas).

As a nitpick I think it's good to reduce line count for trivialities so how about:
```suggestion
@[simp] theorem analyticOn_empty : AnalyticOn 𝕜 f ∅ := by intro; simp

@[simp] theorem analyticOnNhd_empty : AnalyticOnNhd 𝕜 f ∅ := by intro; simp
```

**Review by ocfnash — APPROVED** [review]
Thanks. Please apply the suggestion and then feel free to merge.

bors d+

File: Mathlib/Analysis/Analytic/Basic.lean (hunk 1 above)
Comment (vasnesterov) [reply Mathlib/Analysis/Analytic/Basic.lean]: Thanks!
